US05534530
b) 5-Chloro-3-(2-chlorophenyl)-1,2,4-thiadiazole
To a mixture of 37 g of 2-chlorobenzamidine hydrobromide in 160 ml of dichloromethane, cooled to -10° C., are added dropwise 36 g of trichloromethanesulphenyl chloride dissolved in 160 ml of dichloromethane. After stirring for 30 min, 65 ml of aqueous 50% NaOH solution are added dropwise to the medium, still at -10° C. The solution is allowed to return to room temperature and is stirred for 2 h. Water is added to the reaction medium and the phases are separated after settling has taken place. The organic phase is washed with water, dried over sodium sulphate and evaporated to dryness.

reactant | 2-chlorobenzamidine hydrobromide | 37 g | Br.ClC1=C(C(=N)N)C=CC=C1
reactant | trichloromethanesulphenyl chloride | 36 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | NaOH | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 5-Chloro-3-(2-chlorophenyl)-1,2,4-thiadiazole | ClC1=NC(=NS1)C1=C(C=CC=C1)Cl | C8H4Cl2N2S
